US06713485B2
N-(3-Trifluoromethyl-4-benzyloxyphenyl)-6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-4-furyl]-4-quinazolinamine
The mixture of 5-(4-(4-benzyloxy-3-trifluoromethylphenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde (211 mg, 0.40 mmol), 2-methanesulphonyl-ethylamine (99 mg, 2.0 mmol), acetic acid (0.5 ml) in dichloromethane (15 ml) was stirred at room temperature for 1.5 hours then was heated to reflux for 1 hour. The mixture was cooled to 0° C. with ice bath. Sodium cyanoborohydride (50 mg, 0.8 mmol) was added at 0° C. The reaction mixture then was stirred at room temperature for 1 hour. Diluted with ethyl acetate (50 ml), then quenched with saturated sodium bicarbonate solution slowly. Extracted with ethyl acetate and the combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification of the resulting residue was accomplished using flash chromatography on silica gel with 2% methanol in ethyl acetate which afforded a yellow solid (0.10 g, 43% yield). H1 NMR (400 MHz, DMSO). δ10.0 (s, 1H), 8.7 (s, 1H), 8.5 (s, 1H), 8.1 (d, 1H), 8.1 (s, 2H), 7.8 (d, 1H), 7.4 (m, 5H), 7.3 (m, 1H), 7.0 (d, 1H), 6.5 (d, 1H), 5.3 (s, 2H), 3.8 (s, 2H), 3.2 (m, 2H), 3.0 (s, 3H), 2.9 (m, 2H). ESI-MS m/z 597 (M+H)+.

reactant | 5-(4-(4-benzyloxy-3-trifluoromethylphenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde | 0.40 mmol, 211 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(O1)C=O)C(F)(F)F | C27H18F3N3O3
reactant | 2-methanesulphonyl-ethylamine | 2.0 mmol, 99 mg | CS(=O)(=O)CCN | C3H9NO2S
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 0.8 mmol, 50 mg | C(#N)[BH3-].[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-Trifluoromethyl-4-benzyloxyphenyl)-6-[5-({[2-(methanesulphonyl)ethyl]amino}methyl)-4-furyl]-4-quinazolinamine | 0.10 g, 43% yield | FC(C=1C=C(C=CC1OCC1=CC=CC=C1)NC1=NC=NC2=CC=C(C=C12)C=1C=COC1CNCCS(=O)(=O)C)(F)F | C30H27F3N4O4S
